US05663168
a) p-Methoxybenzyl iodide
A solution of 1.7 ml (12.8 mmol) of 4-methoxybenzyl chloride (Fluka; Buchs/Switzerland) in 25 ml of acetone is stirred with 9.4 g (62.6 mmol) of sodium iodide at room temperature. Gas chromatography of the reaction mixture after 90 minutes indicates that the reaction is complete, and the reaction mixture is therefore poured onto ether and washed with 10% sodium thiosulfate solution and brine. Drying of the organic phase with Na2SO4 and concentration by evaporation yield the title compound; 1H-NMR (200 MHz, CD3OD: 3.78 (s, 3 H), 4.54 (s, 2 H), 6.8-6.95 and 7.2-7.4 (2m, each 2 H).

reactant | 4-methoxybenzyl chloride | 12.8 mmol, 1.7 ml | COC1=CC=C(CCl)C=C1 | C8H9ClO
reactant | sodium iodide | 62.6 mmol, 9.4 g | [I-].[Na+]
solvent | acetone | 25 ml | CC(=O)C | C3H6O
product | p-Methoxybenzyl iodide | COC1=CC=C(CI)C=C1 | C8H9IO
